US07812028B2
a) 3-Bromo-5-methyl-2-phenoxy-pyridine
Sodium hydride dispersion in oil (˜70%, 0.68 g) was added in portions to a well stirred solution of phenol (1.33 g, 14 mmol) in DMA (100 mL). After stirring the mixture for 1 h at 50° C. 3-bromo-2-chloro-5-methyl-pyridine (2.68 g, 13 mmol) was added and stirring continued for 28 h at 100° C. The cooled mixture was poured into water and extracted with diethyl ether. Organic phases were pooled, dried with Na2SO4 and the solvent was evaporated. The residue was purified by column chromatography on silica (n-heptane/ethyl acetate 8:1) to yield 1.4 g of the title compound as a colorless oil, 1H NMR (CDCl3): δ=2.27 (s, 3H), 7.12 (d, 2H), 7.19 (t, 1H), 7.39 (t, 2H), 7.76 (s, 1H), 7.88 (s, 1H).

reactant | Sodium hydride | [H-].[Na+]
reactant | phenol | 14 mmol, 1.33 g | C1(=CC=CC=C1)O | C6H6O
reactant | 3-bromo-2-chloro-5-methyl-pyridine | 13 mmol, 2.68 g | BrC=1C(=NC=C(C1)C)Cl | C6H5BrClN
reactant | water | O | H2O
solvent | DMA | 100 mL | CC(=O)N(C)C | C4H9NO
product | 3-Bromo-5-methyl-2-phenoxy-pyridine | 1.4 g | BrC=1C(=NC=C(C1)C)OC1=CC=CC=C1 | C12H10BrNO
